US09315527B2
1-Naphthyltrichlorosilane
Under a dry nitrogen atmosphere, a solution of 1-bromonaphthalene (27.7 g, 0.134 mol) in THF (175 mL) was added slowly to a suspension of magnesium turnings (3.9 g, 0.16 mol) in THF (15 mL) that had previously been activated with an iodine crystal. After cooling to room temperature, this Grignard reagent was added via cannula to a THF (70 mL) solution of SiCl4 (25.1 g, 0.148 mol) and stirred overnight. The mixture was evaporated to dryness, extracted with hexane, and filtered to remove Mg halide. The product was distilled at 120° C. under dynamic vacuum to give a 67% yield (23.6 g, 0.0902 mol) of product. 1H NMR (CDCl3, ppm) 8.46 (dd, 1H), 8.21 (dd, J=6.8 Hz, J=1.2 Hz, 1H), 8.09 (d, J=8.4 Hz, 1H), 7.96 (d, J=7.6 Hz, 1H), 7.69 (t, 1H), 7.62 (t, 1H), 7.57 (t, 1H). 13C{1H}NMR (CDCl3, ppm) 135.51 (CH), 134.42 (C), 134.07 (CH), 133.58 (C), 129.37 (CH), 127.91 (C), 127.45 (CH), 127.16 (CH), 126.56 (CH), and 124.65 (CH). 29Si{1H} (CDCl3, ppm) −0.17 (s).

reactant | 1-bromonaphthalene | 0.134 mol, 27.7 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | magnesium | 0.16 mol, 3.9 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | SiCl4 | 0.148 mol, 25.1 g | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
solvent | THF | 175 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 1-Naphthyltrichlorosilane | 0.0902 mol, 23.6 g, 67% yield | C1(=CC=CC2=CC=CC=C12)[Si](Cl)(Cl)Cl | C10H7Cl3Si
